US04885283
A vigorously stirred mixture of 17.6 g (0.27 mol) of crystalline phosphinic acid and 43.6 g (0.2 mol) of benzyl 2-isobutylacrylate in 400 ml of dichloromethane was cooled to 0° C. and treated dropwise with 53.4 g (0.53 mol) of triethylamine while maintaining the temperature at below 5° C. After completion of the addition, a solution of 56.0 g (0.52 mol) of trimethylsilyl chloride in 100 ml of dichloromethane was added while stirring vigorously and maintaining the temperature at 10°-12° C. After 30 minutes, the cooling bath was removed and the mixture was stirred at room temperature for 24 hours. The mixture was then treated with 200 ml of water and 30 ml of 10% sulfuric acid. The organic phase was separated and washed with 200 ml of saturated sodium chloride solution. The combined aqueous extracts were re-extracted with 100 ml of dichloromethane and the organic phase was washed with 100 ml of sodium chloride solution and added to the previously obtained dichloromethane extracts. After drying over anhydrous sodium sulfate, the dichloromethane was removed by evaporation to give 59.2 g of [(RS)-2-[(benzyloxy)carbonyl]-4-methylpentyl]phosphinic acid in the form of a colorless oil. (b) The compound prepared in the preceding paragraph was dissolved in 600 ml of ethyl acetate. Thereafter, 25.0 g of S(-)-α-methylbenzylamine were added and the solution was left to crystallize for 24 hours. The crystalline salt was collected by filtration and dried to give 34.0 g of a white solid which was recrystallized overnight from a mixture of 120 ml of ethanol and 48 ml of ethyl acetate. The solid was collected and dried to give 21.3 g of a crystalline salt which was recrystallized overnight from a mixture of 120 ml of ethanol and ethyl acetate. There were obtained 16.8 g of [(R or S)-2-[benzyloxy)carbonyl]4-methylpentyl]phosphinic acid S(-)-α-methylbenzylamine salt in the form of white crystals of melting point 137°-138° C. and [α]20/589=-8.9° (c=5% in ethanol).

reactant | phosphinic acid | 0.27 mol, 17.6 g | [PH2](O)=O | H3O2P
reactant | benzyl 2-isobutylacrylate | 0.2 mol, 43.6 g | C(C(C)C)C(C(=O)OCC1=CC=CC=C1)=C | C14H18O2
reactant | triethylamine | 0.53 mol, 53.4 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 0.52 mol, 56.0 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | [(RS)-2-[(benzyloxy)carbonyl]-4-methylpentyl]phosphinic acid | 59.2 g | C(C1=CC=CC=C1)OC(=O)C(CP(O)=O)CC(C)C | C14H21O4P
